US05714487
(7S,8aS)-7-(4-Fluorobenzyl)oxy -2-(5-fluoropyrimidin-2-yl)-1,2,3,4,6,7,8,8a-octahydro-pyrrolo[1,2-a]pyrazine
A solution of 1.15 mL (10.2 mmol) of 4-fluorobenzyl alcohol in 35 mL of dry DMF was treated with 0.48 g (12 mmol) of sodium hydride (60% oil dispersion), and the mixture was stirred at 50° C. for 30 min. A solution of 1.15 g (3.64 mmol) of (7R,8aS)-7-methanesulfonyloxy-2-(5-fluoropyrimidin-2-yl)-1,2,3,4,6,7,8,8a-octahydro-pyrrolo[1,2-a]pyrazine (Preparation 7) in 35 mL of dry DMF was added and the solution stirred at 100° C. for 18 h. The solution was cooled, diluted with water, and extracted with diethyl ether (2×). The combined organic phase was dried (magnesium sulfate), filtered and evaporated. Purification by flash silica gel chromatography with ethyl acetate gave 0.25 g (20%) of the title compound. mp (.D-(-)-tartrate) 76°-81° C. 13C NMR (base, CDCl3): δ 36.3, 43.6, 48.8, 51.3, 60.2, 61.9, 70.4, 76.6, 115.0, 115.3, 129.43, 129.53, 134.0, 144.9, 145.2, 149.9, 153.2, 158.9, 160.6, 163.9. HRMS calcd for C18H20F2N4O (MH+): 347.1683, found: 347.1706.

reactant | 4-fluorobenzyl alcohol | 10.2 mmol, 1.15 mL | FC1=CC=C(CO)C=C1 | C7H7FO
reactant | sodium hydride | 12 mmol, 0.48 g | [H-].[Na+]
reactant | (7R,8aS)-7-methanesulfonyloxy-2-(5-fluoropyrimidin-2-yl)-1,2,3,4,6,7,8,8a-octahydro-pyrrolo[1,2-a]pyrazine | 3.64 mmol, 1.15 g | CS(=O)(=O)O[C@@H]1C[C@@H]2N(CCN(C2)C2=NC=C(C=N2)F)C1 | C12H17FN4O3S
solvent | DMF | 35 mL | CN(C)C=O | C3H7NO
solvent | DMF | 35 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | (7S,8aS)-7-(4-Fluorobenzyl)oxy -2-(5-fluoropyrimidin-2-yl)-1,2,3,4,6,7,8,8a-octahydro-pyrrolo[1,2-a]pyrazine | 0.25 g, 20% | FC1=CC=C(CO[C@H]2C[C@@H]3N(CCN(C3)C3=NC=C(C=N3)F)C2)C=C1 | C18H20F2N4O
